** Created by: circuit_gen.AN2D1
** Cell name: AN2D1
** Lib name: sky130
.SUBCKT AN2D1 a1 a2 vdd vss z
*.PININFO a1:I a2:I z:O vdd:B vss:B 
M_M23 n6 a1 x_u2_n6 vss nfet_01v8 l=1.500e-07 w=5.900e-07
M_M32 z n6 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M24 x_u2_n6 a2 vss vss nfet_01v8 l=1.500e-07 w=5.900e-07
M_M33 z n6 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M22 n6 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M21 n6 a1 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.AN2D1
** Cell name: AN2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.AO21D1
** Cell name: AO21D1
** Lib name: sky130
.SUBCKT AO21D1 a1 a2 b vdd vss z
*.PININFO a1:I a2:I b:I z:O vdd:B vss:B 
M_M17 n32 a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M27 n59 a1 n32 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M16 n59 b vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M82 z n59 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M23 n22 a1 n59 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M83 z n59 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M24 n22 a2 n59 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M22 n22 b vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.AO21D1
** Cell name: AO21D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.AOI21D1
** Cell name: AOI21D1
** Lib name: sky130
.SUBCKT AOI21D1 a1 a2 b vdd vss zn
*.PININFO a1:I a2:I b:I zn:O vdd:B vss:B 
M_M12 zn a1 n27 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M13 n27 a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M27 zn b vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M24 n13 a2 zn vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M22 n13 b vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M23 n13 a1 zn vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.AOI21D1
** Cell name: AOI21D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.BUFFD1
** Cell name: BUFFD1
** Lib name: sky130
.SUBCKT BUFFD1 i vdd vss z
*.PININFO i:I z:O vdd:B vss:B 
M_M32 z n8 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M22 n8 i vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M33 z n8 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M23 n8 i vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
.ENDS


******* EOF

** Created by: circuit_gen.BUFFD1
** Cell name: BUFFD1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.DFCNQD1
** Cell name: DFCNQD1
** Lib name: sky130
.SUBCKT DFCNQD1 cdn cp d q vdd vss
*.PININFO cdn:I cp:I d:I q:O vdd:B vss:B 
M_M124 n57 d3 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M14 n52 incpb vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M115 d1 incp d2 vss nfet_01v8 l=1.500e-07 w=4.550e-07
M_M15 d0 d n52 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M123 d2 incpb n57 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M147 d0 incp n59 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M148 n59 d1 n62 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M149 n62 cdn vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M214 xi21_n6 cdn vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M213 d3 d2 xi21_n6 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M322 incp incpb vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M312 incpb cp vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M272 q d3 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M132 d1 d0 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M16 d0 d n85 vdd pfet_01v8 l=1.500e-07 w=7.350e-07
M_M212 d3 cdn vdd vdd pfet_01v8 l=1.500e-07 w=9.000e-07
M_M211 d3 d2 vdd vdd pfet_01v8 l=1.500e-07 w=9.000e-07
M_M323 incp incpb vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M313 incpb cp vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M273 q d3 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M133 d1 d0 vdd vdd pfet_01v8 l=1.500e-07 w=6.500e-07
M_M17 n85 incp vdd vdd pfet_01v8 l=1.500e-07 w=7.350e-07
M_M126 d2 incp n88 vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M128 n88 d3 vdd vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M116 d1 incpb d2 vdd pfet_01v8 l=1.500e-07 w=9.350e-07
M_M145 d0 incpb n98 vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M143 n98 d1 vdd vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M144 n98 cdn vdd vdd pfet_01v8 l=1.500e-07 w=4.200e-07
.ENDS


******* EOF

** Created by: circuit_gen.DFCNQD1
** Cell name: DFCNQD1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.DFQD1
** Cell name: DFQD1
** Lib name: sky130
.SUBCKT DFQD1 cp d q vdd vss
*.PININFO cp:I d:I q:O vdd:B vss:B 
M_M14 n43 incpb vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M123 d2 incpb n42 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M15 d0 d n43 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M147 d0 incp n50 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M148 n50 d1 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M124 n42 d3 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M150 d1 incp d2 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M322 incp incpb vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M312 incpb cp vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M272 q d3 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M532 d3 d2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M132 d1 d0 vss vss nfet_01v8 l=1.500e-07 w=4.250e-07
M_M16 d0 d n66 vdd pfet_01v8 l=1.500e-07 w=6.250e-07
M_M323 incp incpb vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M313 incpb cp vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M273 q d3 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M533 d3 d2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M133 d1 d0 vdd vdd pfet_01v8 l=1.500e-07 w=6.250e-07
M_M17 n66 incp vdd vdd pfet_01v8 l=1.500e-07 w=7.350e-07
M_M152 d1 incpb d2 vdd pfet_01v8 l=1.500e-07 w=8.850e-07
M_M128 n74 d3 vdd vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M126 d2 incp n74 vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M145 d0 incpb n84 vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M143 n84 d1 vdd vdd pfet_01v8 l=1.500e-07 w=4.200e-07
.ENDS


******* EOF

** Created by: circuit_gen.DFQD1
** Cell name: DFQD1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.INVD1
** Cell name: INVD1
** Lib name: sky130
.SUBCKT INVD1 i z vss vdd
*.PININFO i:I z:O vss:B vdd:B
M0 z i vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M1 z i vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.INVD1
** Cell name: INVD1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.LNQD1
** Cell name: LNQD1
** Lib name: sky130
.SUBCKT LNQD1 d en q vdd vss
*.PININFO d:I en:I q:O vdd:B vss:B 
M_M22 n9 en vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M232 q n15 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M292 n30 n9 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M302 n20 n15 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M3323 n15 n9 xu32_n16 vss nfet_01v8 l=1.500e-07 w=4.350e-07
M_M3324 xu32_n16 d vss vss nfet_01v8 l=1.500e-07 w=4.350e-07
M_M3223 n15 n30 xu22_n16 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M3224 xu22_n16 n20 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M3322 n15 n30 xu32_n6 vdd pfet_01v8 l=1.500e-07 w=7.500e-07
M_M23 n9 en vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M233 q n15 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M293 n30 n9 vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M303 n20 n15 vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M3321 xu32_n6 d vdd vdd pfet_01v8 l=1.500e-07 w=7.500e-07
M_M3222 n15 n9 xu22_n6 vdd pfet_01v8 l=1.500e-07 w=4.200e-07
M_M3221 xu22_n6 n20 vdd vdd pfet_01v8 l=1.500e-07 w=4.200e-07
.ENDS


******* EOF

** Created by: circuit_gen.LNQD1
** Cell name: LNQD1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.MUX2D1
** Cell name: MUX2D1
** Lib name: sky130
.SUBCKT MUX2D1 i0 i1 s vdd vss z
*.PININFO i0:I i1:I s:I z:O vdd:B vss:B 
M_M153 n46 s n28 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M73 n48 n42 n28 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M202 n46 i1 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M192 n48 i0 vss vss nfet_01v8 l=1.500e-07 w=4.700e-07
M_M182 n42 s vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M292 z n28 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M152 n46 n42 n28 vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M72 n48 s n28 vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M203 n46 i1 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M193 n48 i0 vdd vdd pfet_01v8 l=1.500e-07 w=8.250e-07
M_M183 n42 s vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M293 z n28 vdd vdd pfet_01v8 l=1.500e-07 w=7.000e-07
.ENDS


******* EOF

** Created by: circuit_gen.MUX2D1
** Cell name: MUX2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.ND2D1
** Cell name: ND2D1
** Lib name: sky130
.SUBCKT ND2D1 a1 a2 vdd vss zn
*.PININFO a1:I a2:I zn:O vdd:B vss:B 
M_M13 zn a1 xi1_n6 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M14 xi1_n6 a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M12 zn a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M11 zn a1 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.ND2D1
** Cell name: ND2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.ND3D1
** Cell name: ND3D1
** Lib name: sky130
.SUBCKT ND3D1 a1 a2 a3 vdd vss zn
*.PININFO a1:I a2:I a3:I zn:O vdd:B vss:B 
M_M14 zn a1 xi1_n10 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M15 xi1_n10 a2 xi1_n13 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M16 xi1_n13 a3 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M13 zn a3 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M11 zn a1 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M12 zn a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.ND3D1
** Cell name: ND3D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.ND4D1
** Cell name: ND4D1
** Lib name: sky130
.SUBCKT ND4D1 a1 a2 a3 a4 vdd vss zn
*.PININFO a1:I a2:I a3:I a4:I zn:O vdd:B vss:B 
M_M13 p0 a2 p1 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M15 p2 a4 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M14 p1 a3 p2 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M M53 zn a1 p0 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M17 zn a1 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M12 zn a4 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M11 zn a3 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M10 zn a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.ND4D1
** Cell name: ND4D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.NR2D1
** Cell name: NR2D1
** Lib name: sky130
.SUBCKT NR2D1 a1 a2 vdd vss zn
*.PININFO a1:I a2:I zn:O vdd:B vss:B 
M_M14 zn a1 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M13 zn a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M12 zn a1 xi1_n8 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M11 xi1_n8 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.NR2D1
** Cell name: NR2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.NR3D1
** Cell name: NR3D1
** Lib name: sky130
.SUBCKT NR3D1 a1 a2 a3 vdd vss zn
*.PININFO a1:I a2:I a3:I zn:O vdd:B vss:B 
M_M24 zn a3 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M12 zn a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M13 zn a1 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M14_0 n37_0_ a2 n34_0_ vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M21_0 n34_0_ a3 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M21_1 n34_1_ a3 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M14_1 n37_1_ a2 n34_1_ vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M15_0 zn a1 n37_0_ vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M15_1 zn a1 n37_1_ vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.NR3D1
** Cell name: NR3D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.NR4D1
** Cell name: NR4D1
** Lib name: sky130
.SUBCKT NR4D1 a1 a2 a3 a4 vdd vss zn
*.PININFO a1:I a2:I a3:I a4:I zn:O vdd:B vss:B 
M_M136 zn a4 vss vss nfet_01v8 l=1.500e-07 w=4.250e-07
M_M135 zn a3 vss vss nfet_01v8 l=1.500e-07 w=4.250e-07
M_M134 zn a2 vss vss nfet_01v8 l=1.500e-07 w=4.250e-07
M_M15 zn a1 vss vss nfet_01v8 l=1.500e-07 w=4.250e-07
M_M126 n49 a3 n52 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M130 n43 a2 n40 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M131 n40 a3 n37 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M132 n37 a4 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M129 zn a1 n43 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M17 n52 a4 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M127 n46 a2 n49 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M128 zn a1 n46 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.NR4D1
** Cell name: NR4D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.OA21D1
** Cell name: OA21D1
** Lib name: sky130
.SUBCKT OA21D1 a1 a2 b vdd vss z
*.PININFO a1:I a2:I b:I z:O vdd:B vss:B 
M_M112 n14 a2 n20 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M111 n14 a1 n20 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M16 n20 b vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M82 z n14 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M19 n14 a1 n24 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M83 z n14 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M22 n14 b vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M17 n24 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.OA21D1
** Cell name: OA21D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.OAI21D1
** Cell name: OAI21D1
** Lib name: sky130
.SUBCKT OAI21D1 a1 a2 b vdd vss zn
*.PININFO a1:I a2:I b:I zn:O vdd:B vss:B 
M_M22 zn a1 n15 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M23 zn a2 n15 vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M24 n15 b vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M116_M_M112 zn a1 xi16_n11 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M29 zn b vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M116_M_M113 xi16_n11 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.OAI21D1
** Cell name: OAI21D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.OR2D1
** Cell name: OR2D1
** Lib name: sky130
.SUBCKT OR2D1 a1 a2 vdd vss z
*.PININFO a1:I a2:I z:O vdd:B vss:B 
M_M12 z n7 vss vss nfet_01v8 l=1.500e-07 w=5.900e-07
M_M74 n7 a1 vss vss nfet_01v8 l=1.500e-07 w=5.900e-07
M_M73 n7 a2 vss vss nfet_01v8 l=1.500e-07 w=5.900e-07
M_M72 n7 a1 x_u7_n8 vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M13 z n7 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M71 x_u7_n8 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.OR2D1
** Cell name: OR2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.TIEH
** Cell name: TIEH
** Lib name: sky130
.SUBCKT TIEH vdd vss z
*.PININFO z:O vdd:B vss:B 
M_M22 n6 n6 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M21 z n6 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.TIEH
** Cell name: TIEH
** Lib name: sky130


******* EOF

** Created by: circuit_gen.TIEL
** Cell name: TIEL
** Lib name: sky130
.SUBCKT TIEL vdd vss zn
*.PININFO zn:O vdd:B vss:B 
M_M22 zn n6 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M21 n6 n6 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
.ENDS


******* EOF

** Created by: circuit_gen.TIEL
** Cell name: TIEL
** Lib name: sky130


******* EOF

** Created by: circuit_gen.XNR2D1
** Cell name: XNR2D1
** Lib name: sky130
.SUBCKT XNR2D1 a1 a2 vdd vss zn
*.PININFO a1:I a2:I zn:O vdd:B vss:B 
M_M22 n4 a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M52 n6 n4 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M42 zn n14 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M82 n10 a1 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M63 n4 a1 n14 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M73 n6 n10 n14 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M62 n4 n10 n14 vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M23 n4 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M53 n6 n4 vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M43 zn n14 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M83 n10 a1 vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M72 n6 a1 n14 vdd pfet_01v8 l=1.500e-07 w=5.000e-07
.ENDS


******* EOF

** Created by: circuit_gen.XNR2D1
** Cell name: XNR2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.XOR2D1
** Cell name: XOR2D1
** Lib name: sky130
.SUBCKT XOR2D1 a1 a2 vdd vss z
*.PININFO a1:I a2:I z:O vdd:B vss:B 
M_M63 n41 a1 n21 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M23 n27 n23 n21 vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M72 n41 n27 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M32 n27 a2 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M42 z n21 vss vss nfet_01v8 l=1.500e-07 w=6.500e-07
M_M52 n23 a1 vss vss nfet_01v8 l=1.500e-07 w=4.200e-07
M_M62 n41 n23 n21 vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M22 n27 a1 n21 vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M73 n41 n27 vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
M_M33 n27 a2 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M43 z n21 vdd vdd pfet_01v8 l=1.500e-07 w=1.000e-06
M_M53 n23 a1 vdd vdd pfet_01v8 l=1.500e-07 w=5.000e-07
.ENDS


******* EOF

** Created by: circuit_gen.XOR2D1
** Cell name: XOR2D1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.FILL1
** Cell name: FILL1
** Lib name: sky130
.SUBCKT FILL1 vdd vss
*.PININFO vdd:B vss:B 
.ENDS


******* EOF

** Created by: circuit_gen.FILL1
** Cell name: FILL1
** Lib name: sky130


******* EOF

** Created by: circuit_gen.FILL2
** Cell name: FILL2
** Lib name: sky130
.SUBCKT FILL2 vdd vss
*.PININFO vdd:B vss:B 
.ENDS


******* EOF

** Created by: circuit_gen.FILL2
** Cell name: FILL2
** Lib name: sky130


******* EOF

** Created by: circuit_gen.FILL4
** Cell name: FILL4
** Lib name: sky130
.SUBCKT FILL4 vdd vss
*.PININFO vdd:B vss:B 
.ENDS


******* EOF

** Created by: circuit_gen.FILL4
** Cell name: FILL4
** Lib name: sky130


******* EOF

** Created by: circuit_gen.FILL8
** Cell name: FILL8
** Lib name: sky130
.SUBCKT FILL8 vdd vss
*.PININFO vdd:B vss:B 
.ENDS


******* EOF

** Created by: circuit_gen.FILL8
** Cell name: FILL8
** Lib name: sky130


******* EOF

